US05990102
b. 6-Phenylhexanoyl chloride
6-Phenylhexanoic acid (2.5 g, 13 mmol) was treated with thionyl chloride (3.0 ml, 41.1 mmol) and stirred under reflux for 3 h. The mixture was evaporated under reduced pressure to remove thionyl chloride and then distilled at 92-95° C./0.1 mbar to give the product as a colourless oil (2.57 g, 94%).

reactant | 6-Phenylhexanoic acid | 13 mmol, 2.5 g | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | thionyl chloride | 41.1 mmol, 3.0 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-Phenylhexanoyl chloride | 2.57 g, 94% | C1(=CC=CC=C1)CCCCCC(=O)Cl | C12H15ClO
